US05688946
5.06 g (28 mmol) of guanidine carbonate are added at -10° to a solution of 4.73 g (16.2 mmol) of crude ethyl 2-benzyl-3-chlorosulphonyl-propionate, prepared according to the procedure described in EPA 0236734, in 150 ml of methylene chloride and 40 ml of dimethylformamide. The reaction mixture is stirred at room temperature overnight and thereafter evaporated. The residue is partitioned between methylene chloride and water, the aqueous phase is separated, evaporated under reduced pressure and the residue obtained is chromatographed on 50 g of silica gel using a 9:1 to 1:1 mixture of water and methanol as the eluent. The product obtained is recrystallized from a mixture of methanol and ether. There are obtained 3.29 g of ethyl (RS)-α-(sulphonylmethyl)hydrocinnamate guanidine salt as colourless crystals.

reactant | guanidine carbonate | 28 mmol, 5.06 g | C(O)(O)=O.NC(=N)N
reactant | ethyl 2-benzyl-3-chlorosulphonyl-propionate | 16.2 mmol, 4.73 g | C(C1=CC=CC=C1)C(C(=O)OCC)CS(=O)(=O)Cl | C12H15ClO4S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | ethyl (RS)-α-(sulphonylmethyl)hydrocinnamate guanidine salt | 3.29 g | NC(=N)N.S(=O)(=O)=CC(C(=O)OCC)CC1=CC=CC=C1 | InChI=1S/C12H14O4S.CH5N3/c1-2-16-12(13)11(9-17(14)15)8-10-6-4-3-5-7-10;2-1(3)4/h3-7,9,11H,2,8H2,1H3;(H5,2,3,4)
